US05872115
Step 4): A mixture of 5-fluoro-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)-methyl]benzamide (13.4 g, 30 mmol) and 2.0M MeOH solution of dimethylamine (45 ml, 90 mmol) in THF (100 ml) was refluxed for 22 hours. The resulting solution was evaporated to give 5-dimethylamino-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide as yellow powders, 14.1 g (99.6%).

reactant | 5-fluoro-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)-methyl]benzamide | 30 mmol, 13.4 g | FC=1C=CC(=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C1)[N+](=O)[O-] | C26H26FN3O3
reactant | MeOH | 2.0M | CO | CH4O
reactant | dimethylamine | 90 mmol, 45 ml | CNC | C2H7N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 5-dimethylamino-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | CN(C=1C=CC(=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C1)[N+](=O)[O-])C | C28H32N4O3
